US06087358
4-Trifluoromethoxybenzylcyanide
To a solution containing 2.085 g (8.18 mmol) of 4-trifluoromethoxybenzyl bromide in 10 mL dry DMF was added 441 mg (8.99 mmol) of sodium cyanide. The reaction was stirred for 1 h at room temperature, poured into water and extracted with of ethyl acetate (2×40 mL). The combined organic extracts were dried (MgSO4) and evaporated. The crude product was used in the next reaction without further purification.

reactant | 4-trifluoromethoxybenzyl bromide | 8.18 mmol, 2.085 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | sodium cyanide | 8.99 mmol, 441 mg | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Trifluoromethoxybenzylcyanide | FC(OC1=CC=C(CC#N)C=C1)(F)F | C9H6F3NO
